US07759370B2
(S)-2-Amino-2-(5-(3-(trifluoromethyl)-4-(5-(4-(trifluoromethyl)phenyl)pentyloxy)phenyl)thiazol-2-yl)propan-1-ol (8b)
The title compound was prepared from (R)-tert-butyl 2,2,4-trimethyl-4-(5-(3-(trifluoromethyl)-4-(5-(4-(trifluoromethyl)phenyl)pentyloxy)phenyl)thiazol-2-yl)oxazolidine-3-carboxylate. HPLC retention time on a C18 column (30×4.6 mm, 3.5μ) was 2.50 min with gradient 10-95% acetonitrile-H2O (0.1% TFA) in 3.5 min as mobile phase. MS (ESI, M+H+)=533.4; 1H NMR (400 MHz, CDCl3) δ 7.77 (s, 1H), 7.66 (d, 1H, J=2.0 Hz), 7.56 (dd, 1H, J=9.0 Hz, J=2.4 Hz), 7.52 (d, 2H, J=8.0 Hz), 7.28 (d, 2H, J=8.0 Hz), 6.97 (d, 1H, J=8.8 Hz), 4.07-4.03 (m, 4H), 2.70 (t, 2H, J=7.8 Hz), 1.89-1.82 (m, 5H), 1.74-1.67 (m, 2H), 1.57-1.50 (m, 2H).

reactant | (R)-tert-butyl 2,2,4-trimethyl-4-(5-(3-(trifluoromethyl)-4-(5-(4-(trifluoromethyl)phenyl)pentyloxy)phenyl)thiazol-2-yl)oxazolidine-3-carboxylate | CC1(OC[C@@](N1C(=O)OC(C)(C)C)(C=1SC(=CN1)C1=CC(=C(C=C1)OCCCCCC1=CC=C(C=C1)C(F)(F)F)C(F)(F)F)C)C | C33H38F6N2O4S
solvent | acetonitrile H2O | C(C)#N.O
product | (S)-2-Amino-2-(5-(3-(trifluoromethyl)-4-(5-(4-(trifluoromethyl)phenyl)pentyloxy)phenyl)thiazol-2-yl)propan-1-ol | N[C@](CO)(C)C=1SC(=CN1)C1=CC(=C(C=C1)OCCCCCC1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C25H26F6N2O2S
